US06177429B1
4-[3-[[[[3-(4-cyclohexyl-1-piperazinyl)propyl]amino]-carbonothioyl]amino]phenyl]-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester
1,4-Dihydro-2,6-dimethyl-4-(3-isothiocyanatophenyl)-3,5-pyrazinedicarboxylic acid, dimethyl ester (500 mg, 1.4 mmol) was refluxed with 4-cyclohexyl-1-piperazine-1-propanamine (345 mg, 1.5 mmol) in 8 mL of benzene for 2 hours. Chromatographic purification (on silica gel, 100% methylene chloride first, followed by 10% (v/v) methanol in methylene chloride) of the residue after concentration in vacuo gave the title compound as a yellow foam (752 mg, 92%); 1H-NMR (CDCl3) δ 7.63 (br, 1H), 7.11 (t, 1H, J=8.0 Hz), 6.85 (br, 1H), 6.72 (br, 1H), 6.60 (d, 1H, J=8.2 Hz), 6.56 (dd, 1H, J=8.3, 2.2 Hz), 6.45 (br, 1H), 3.75 (s, 6H), 3.65 (m, 2H), 2.40 (s, 6H), 2.31 (t, 2H, J=6.6 Hz), 2.20-2.60 (m, 8H), 2.16 (m, 1H), 1.50-1.95 (m, 7H), 1.00-1.30 (m, 5H); 13C-NMR (CDCl3) δ 165.9, 152.5, 149.2, 130.1, 112.0, 108.8, 63.6, 53.2, 51.9, 48.7, 29.0, 26.2, 25.8, 25.3, and 18.0.

reactant | 1,4-Dihydro-2,6-dimethyl-4-(3-isothiocyanatophenyl)-3,5-pyrazinedicarboxylic acid, dimethyl ester | 1.4 mmol, 500 mg | CC=1NC(=C(N(C1C(=O)OC)C1=CC(=CC=C1)N=C=S)C(=O)OC)C | C17H17N3O4S
reactant | benzene | 8 mL | C1=CC=CC=C1 | C6H6
product | 4-[3-[[[[3-(4-cyclohexyl-1-piperazinyl)propyl]amino]-carbonothioyl]amino]phenyl]-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester | 752 mg, 92% | C1(CCCCC1)N1CCN(CC1)CCCNC(=S)NC=1C=C(C=CC1)N1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C30H44N6O4S
